US08530470B2
Diacetoxypalladium (3.3 mg, 0.01 mmol) was added to a stirred mixture of methyl 2-morpholino-4-oxo-8-[(2R)-pyrrolidin-2-yl]chromene-6-carboxylate (121 mg, 0.34 mmol), (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (16.61 mg, 0.03 mmol), 1-bromo-3-fluorobenzene (0.047 mL, 0.42 mmol) and cesium carbonate (165 mg, 0.51 mmol) suspended in 1,4-dioxane (3.3 mL). The resulting suspension was degassed with argon and then stirred at 100° C. for 20 h. The reaction mixture was allowed to cool to room temperature, and the crude product was purified by flash chromatography on silica gel eluting with 0 to 7% propanol in DCM. The solvent was evaporated to dryness to afford methyl 8-[(2R)-(1-(3-fluorophenyl)pyrrolidin-2-yl)]-2-morpholino-4-oxo-4H-chromene-6-carboxylate (120 mg, 79%) as a yellow oil which solidified on standing. Mass Spectrum: m/z [M+H]+=453.

reactant | methyl 2-morpholino-4-oxo-8-[(2R)-pyrrolidin-2-yl]chromene-6-carboxylate | 0.34 mmol, 121 mg | O1CCN(CC1)C=1OC2=C(C=C(C=C2C(C1)=O)C(=O)OC)[C@@H]1NCCC1 | C19H22N2O5
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.03 mmol, 16.61 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | 1-bromo-3-fluorobenzene | 0.42 mmol, 0.047 mL | BrC1=CC(=CC=C1)F | C6H4BrF
reactant | cesium carbonate | 0.51 mmol, 165 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 3.3 mL | O1CCOCC1 | C4H8O2
catalyst | Diacetoxypalladium | 0.01 mmol, 3.3 mg | C(C)(=O)O[Pd]OC(C)=O
product | methyl 8-[(2R)-(1-(3-fluorophenyl)pyrrolidin-2-yl)]-2-morpholino-4-oxo-4H-chromene-6-carboxylate | 120 mg, 79% | FC=1C=C(C=CC1)N1[C@H](CCC1)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)OC | C25H25FN2O5
